US07612075B2
B. (±)-1-[3-(Benzhydrylidene-amino)-4-cyano-benzyl]-6-oxo-piperazine-2-carboxylic acid methyl ester.
Tetrakis(triphenylphosphine)palladium(0) (237 mg, 0.2 mmol) is added to a solution containing (±)-4-[3-(benzhydrylidene-amino)-4-cyano-benzyl]-5-oxo-piperazine-1,3-dicarboxylic acid 1-allyl ester 3-methyl ester (1.10 g, 2.05 mmol) and morpholine (894 mg, 10.2 mmol) in CH2Cl2 (30 mL). After ˜5 min, the reaction mixture is absorbed onto silica gel and chromatographed (CH2Cl2 to 10% MeOH/CH2Cl2) to provide 900 mg (97%) of the title compound as a viscous yellow oil. 1H NMR (300 MHz, CDCl3) δ1.83 (br s, 1H), 2.95 (dd, J=13.5, 4.3 Hz, 1H), 3.27 (br d, J=13.5 Hz, 1H), 3.46-3.72 (m, 4H), 3.73 (s, 3H), 5.40 (d, J=15.3 Hz, 1H), 6.57 (br s, 1H), 6.83 (dd, J=8.0, 1.2 Hz, 1H), 7.17-7.50 (m, 9H), 7.75-7.77 (m, 2H) ppm; MS (ion spray): m/z 453 (M+H).

reactant | (±)-4-[3-(benzhydrylidene-amino)-4-cyano-benzyl]-5-oxo-piperazine-1,3-dicarboxylic acid 1-allyl ester 3-methyl ester | 2.05 mmol, 1.10 g | COC(=O)C1CN(CC(N1CC1=CC(=C(C=C1)C#N)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)OCC=C | C31H28N4O5
reactant | morpholine | 10.2 mmol, 894 mg | N1CCOCC1 | C4H9NO
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.2 mmol, 237 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (±)-1-[3-(Benzhydrylidene-amino)-4-cyano-benzyl]-6-oxo-piperazine-2-carboxylic acid methyl ester | 900 mg, 97% | COC(=O)C1N(C(CNC1)=O)CC1=CC(=C(C=C1)C#N)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C27H24N4O3
